* C:\Electronics Trunk\Boost Converter\Boost_Converter-\LTspice sims\555AstableFlipFlop.asc
XU1 0 trig out N001 NC_01 trig discharge N001 NE555
R1 N001 discharge 10k tol=1 pwr=0.1
R2 discharge trig 10k tol=1 pwr=0.1
C2 trig 0 4.7nF V=25 Irms=0 Rser=0.007 Lser=0
Vcc N001 0 5 Rser=.8
R3 N002 out 10k
R4 N003 N002 10k
C1 N002 0 1nF
C3 N003 0 1nF
.tran 10m startup
.lib NE555.sub
.backanno
.end
